US04505926
2-(4-Carbomethoxy-2,6-dichlorophenylimino)imidazolidine
A solution of 1-acetyl-2-(4-carbomethoxy-2,6-dichlorophenylimino)imidazolidine (5 g, 15 mmole) and 2M hydrochloric acid (1 ml, 2 mmole) in methanol (100 ml) was heated under reflux for 40 hour. The mixture was then evaporated to give a solid which was taken up in methylene chloride/methanol (650 ml:30 ml) and extracted with saturated sodium carbonate (300 ml). The organic layer was dried and evaporated to give a residue which after trituration with ether, yielded the title compound as a solid (3.5 g) mp 229°-231° C.

reactant | 1-acetyl-2-(4-carbomethoxy-2,6-dichlorophenylimino)imidazolidine | 15 mmole, 5 g | C(C)(=O)N1C(NCC1)=NC1=C(C=C(C=C1Cl)C(=O)OC)Cl | C13H13Cl2N3O3
reactant | hydrochloric acid | 2 mmole, 2M, 1 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | methylene chloride methanol | 650 ml | C(Cl)Cl.CO
product | 2-(4-Carbomethoxy-2,6-dichlorophenylimino)imidazolidine | 3.5 g | C(=O)(OC)C1=CC(=C(C(=C1)Cl)N=C1NCCN1)Cl | C11H11Cl2N3O2
